US04628058
33 g (0.118 mole) of 5,7-dichloro-2,3-dihydrobenzofuran-2-ylmethyl bromide and 200 ml of n-butylamine were stirred for 12 hours at 60° C. The mixture was evaporated down under reduced pressure, 100 ml of a 20% strength aqueous sodium hydroxide solution were added to the residue, and the mixture was then extracted by shaking with 300 ml of methylene chloride. The organic phase was washed with three times 70 ml of water, dried and evaporated down, the residue was dissolved in 300 ml of dry diethyl ether, the solution was gassed with dry hydrogen chloride at from 0° to +3° C., and the colorless crystalline precipitate was filtered off under suction, washed with dry diethyl ether and dried. 27 g of N-(5,7-dichloro-2,3-dihydrobenzofuran-2-ylmethyl)-N-butylamine hydrochloride of melting point 202°-205° C. were obtained.

reactant | 5,7-dichloro-2,3-dihydrobenzofuran-2-ylmethyl bromide | 0.118 mole, 33 g | ClC=1C=C(C2=C(CC(O2)CBr)C1)Cl | C9H7BrCl2O
reactant | n-butylamine | 200 ml | C(CCC)N | C4H11N
product | N-(5,7-dichloro-2,3-dihydrobenzofuran-2-ylmethyl)-N-butylamine hydrochloride | 27 g | Cl.ClC=1C=C(C2=C(CC(O2)CNCCCC)C1)Cl | InChI=1S/C13H17Cl2NO.ClH/c1-2-3-4-16-8-11-6-9-5-10(14)7-12(15)13(9)17-11;/h5,7,11,16H,2-4,6,8H2,1H3;1H
